US04085211
Step B: 3-Amino-5-isopropylamino-6-chloro-N-{[(ethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide
A mixture of 3-amino-5-isopropylamino-6-chloro-N-{[(1-imidazolcarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide (18.25 g., 0.05 mole) and ethylamine (2.7 g., 0.06 m) in 1-methyl-2-pyrrolidinone (150 ml.) is heated at 95° for 1/2 hour, filtered and the filtrate slowly diluted with water (350 ml.) to precipitate 3-amino-5-isopropylamino-6-chloro-N-{[(ethylaminocarbonyl)amino]aminomethylen}-2-pyrazinecarboxamide which melts at 148°-150° C.

reactant | 3-amino-5-isopropylamino-6-chloro-N-{[(1-imidazolcarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide | 0.05 mole, 18.25 g | NC=1C(=NC(=C(N1)NC(C)C)Cl)C(=O)N=CNNC(=O)N1C=NC=C1 | C13H16ClN9O2
reactant | ethylamine | 2.7 g | C(C)N | C2H7N
solvent | 1-methyl-2-pyrrolidinone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 3-Amino-5-isopropylamino-6-chloro-N-{[(ethylaminocarbonyl)amino]aminomethylene}-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)NC(C)C)Cl)C(=O)N=CNNC(=O)NCC | C12H19ClN8O2
